US09236573B2
Synthesis of 1,5-bis-(2-ethyl hexyloxy)naphthalene-2,6-dicarbaldehyde
After 1.0 g of 1,5-bis-(2-ethylhexyloxy)-2,6-dibromonaphthalene (1.8 mmol) was dissolved in 20 mL of tetrahydrofuran (THF), a temperature was raised to −78° C., and n-butyl lithium was slowly added thereto for 30 minutes. The mixture was stirred at −78° C. for 2 hours, and then 0.46 g of DMF (6.3 mmol) was slowly added thereto for 10 minutes and further stirred for 30 minutes. After a temperature was raised to room temperature and the reactant was stirred for 1 hour, the reaction was terminated by cool water, and the resultant was extracted with ethylacetate, followed by distillation under reduced pressure and column chromatography, thereby obtaining 1.1 g of the title compound (45.0%).

reactant | 1,5-bis-(2-ethylhexyloxy)-2,6-dibromonaphthalene | 1.8 mmol, 1.0 g | C(C)C(COC1=C(C=CC2=C(C(=CC=C12)Br)OCC(CCCC)CC)Br)CCCC | C26H38Br2O2
reactant | n-butyl lithium | C(CCC)[Li]
reactant | DMF | 6.3 mmol, 0.46 g | CN(C)C=O | C3H7NO
reactant | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 1,5-bis-(2-ethyl hexyloxy)naphthalene-2,6-dicarbaldehyde | 1.1 g, 45.0% | C(C)C(COC1=C(C=CC2=C(C(=CC=C12)C=O)OCC(CCCC)CC)C=O)CCCC | C28H40O4
